US08871361B2
2-chloroquinoline (9.25 g, 56.5 mmol), (3-chlorophenyl)boronic acid (9.28 g, 59.4 mmol), Pd(PPh3)4 (1.634 g, 1.413 mmol) were charged into the reaction flask with 300 mL of 1,2-dimethoxyethane. Sodium carbonate (14.98 g, 141 mmol) was dissolved in 50 mL of water and was charged into the reaction flask. The reaction flask was then evacuated and back-filled with nitrogen then was heated to reflux for 20 hours. The organic layer was separated and dried over magnesium sulfate. The organics were filtered and stripped under vacuum. The crude residue was passed through a silica gel column using 5-25% ethyl acetate/hexanes yielding 2-(3-chlorophenyl)quinoline (10.5 g, 77% yield) as a white solid.

reactant | 2-chloroquinoline | 56.5 mmol, 9.25 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | (3-chlorophenyl)boronic acid | 59.4 mmol, 9.28 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
reactant | Sodium carbonate | 141 mmol, 14.98 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 1.413 mmol, 1.634 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-chlorophenyl)quinoline | 10.5 g, 77% yield | ClC=1C=C(C=CC1)C1=NC2=CC=CC=C2C=C1 | C15H10ClN
